US07220766B2
Step A: Methyl (2S)-2-[(1,1-dioxo-1,2-benzoisothiazol-3-yl)amino]-3-[4-(2-[(cyclohexylcarbonyl)(methyl)amino]ethylmethanesulfonylamino)phenyl]-propionate
N-(2-Hydroxyethyl)-N-methylcyclohexanecarboxyamide (0.19 g, 1.5 mmol), methyl (2S)-2-[(1,1-dioxo-1,2-benzoisothiazol-3-yl)amino]-3-{4-[(methylsulfonyl)amino]phenyl}propionate (0.44 g, 1 mmol) and triphenylphosphine (0.79 g, 3 mmol) in tetrahydrofuran (3 ml). After cooling the reaction mixture to 5° C., DEAD (0.52 g, 3 mmol) was added. The reaction was then stirred at room temperature for 18–24 h. THF was evaporated to obtain crude title product.

reactant | N-(2-Hydroxyethyl)-N-methylcyclohexanecarboxyamide | 1.5 mmol, 0.19 g | OCCN(C(=O)CC1CCCCC1)C | C11H21NO2
reactant | methyl (2S)-2-[(1,1-dioxo-1,2-benzoisothiazol-3-yl)amino]-3-{4-[(methylsulfonyl)amino]phenyl}propionate | 1 mmol, 0.44 g | O=S1(N=C(C2=C1C=CC=C2)N[C@H](C(=O)OC)CC2=CC=C(C=C2)NS(=O)(=O)C)=O | C18H19N3O6S2
reactant | triphenylphosphine | 3 mmol, 0.79 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 3 mmol, 0.52 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | Methyl (2S)-2-[(1,1-dioxo-1,2-benzoisothiazol-3-yl)amino]-3-[4-(2-[(cyclohexylcarbonyl)(methyl)amino]ethylmethanesulfonylamino)phenyl]-propionate | O=S1(N=C(C2=C1C=CC=C2)N[C@H](C(=O)OC)CC2=CC=C(C=C2)N(S(=O)(=O)C)CCN(C)C(=O)C2CCCCC2)=O | C28H36N4O7S2
